US04456545
1.2 g of 4'-(trans-4-n-pentylcyclohexyl)-biphenyl-3,4-dicarboxylic acid anhydride, 2.0 g of hydroquinone and 10 g of oxalic acid are heated for 2 hours to 220°. After cooling, the 1,4-dihydroxy-6-[4-(trans-4-n-pentylcyclo-hexyl)-phenyl]-anthraquinone obtained is purified by recrystallization from ethanol.

reactant | 4'-(trans-4-n-pentylcyclohexyl)-biphenyl-3,4-dicarboxylic acid anhydride | 1.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC2=C(C=C1)C(=O)OC2=O | C25H28O3
reactant | hydroquinone | 2.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | oxalic acid | 10 g | C(C(=O)O)(=O)O | C2H2O4
product | 1,4-dihydroxy-6-[4-(trans-4-n-pentylcyclo-hexyl)-phenyl]-anthraquinone | OC1=CC=C(C=2C(C3=CC(=CC=C3C(C12)=O)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)=O)O | C31H32O4
